US04103086
Methyl cis-3-Amino-4-oxoazetidine-2-carboxylate
A solution of methyl cis-3-azido-4-oxoazetidine-2-carboxylate (8.5 g, 50 mmol) and an equivalent of p-toluenesulfonic acid in 200 ml of ethanol is hydrogenated for 3 hours over 1 g of 10% Pd on carbon at 40 psi. The solution is filtered and the filtrate is evaporated to title product or the tosylate salt which can be converted to the free base by standard methods.

reactant | methyl cis-3-azido-4-oxoazetidine-2-carboxylate | 50 mmol, 8.5 g | N(=[N+]=[N-])[C@@H]1[C@@H](NC1=O)C(=O)OC | C5H6N4O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 1 g | [Pd] | Pd
product | Methyl cis-3-Amino-4-oxoazetidine-2-carboxylate | N[C@@H]1[C@@H](NC1=O)C(=O)OC | C5H8N2O3
